US05099067
To a solution of etythro 1-(2-trifluoromethylphenyl)-2-nitro-butan-1-ol (0.18 g, 0.00068 mole) in THF (5 mL) and methanol (5 mL) was added 10% palladium on carbon (50 mg) followed by ammonium formate (0.21 g, 5 equivalents). The resulting mixture was stirred at room temperature for 1.5 hour then diluted with Et2O, filtered and evaporated in vacuo. Flash column chromatography (SiO2, 2% MeOH in CHCl3) gave erythro 1-(2-trifluoromethylphenyl)-2-amino-butan-1-ol. (0.074 g, 47%), and some starting material (0.035 g).

reactant | 1-(2-trifluoromethylphenyl)-2-nitro-butan-1-ol | 0.00068 mole, 0.18 g | FC(C1=C(C=CC=C1)C(C(CC)[N+](=O)[O-])O)(F)F | C11H12F3NO3
reactant | ammonium formate | 0.21 g, 5 equivalents | C(=O)[O-].[NH4+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
solvent | Et2O | CCOCC | C4H10O
product | 1-(2-trifluoromethylphenyl)-2-amino-butan-1-ol | FC(C1=C(C=CC=C1)C(C(CC)N)O)(F)F | C11H14F3NO
